US09238640B2
A solution of 4-(3-methylpiperazin-1-yl)benzaldehyde (1.0 g, 4.89 mmol) in methylene chloride (15 mL) was cooled to 0° C. and treated with Et3N (0.68 mL, 4.89 mmol), followed by acetyl chloride (0.34 mL, 4.89 mmol). The resulting solution was stirred at 0° C. for 20 minutes and then concentrated in vacuo. The material was purified by flash chromatography on silica gel, eluting with 0% to 5% of EtOAc/CH2Cl2, to afford 4-(4-acetyl-3-methylpiperazin-1-yl)benzaldehyde (0.88 g, 73%).

reactant | 4-(3-methylpiperazin-1-yl)benzaldehyde | 4.89 mmol, 1.0 g | CC1CN(CCN1)C1=CC=C(C=O)C=C1 | C12H16N2O
reactant | Et3N | 4.89 mmol, 0.68 mL | CCN(CC)CC | C6H15N
reactant | acetyl chloride | 4.89 mmol, 0.34 mL | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-acetyl-3-methylpiperazin-1-yl)benzaldehyde | 0.88 g, 73% | C(C)(=O)N1C(CN(CC1)C1=CC=C(C=O)C=C1)C | C14H18N2O2
